US04532236
(1S,5R,6S,7R)-6-tert-Butyldimethylsilyloxymethyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one
A solution of 11.052 g of (1S,5R,6S,7R)-6-hydroxymethyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one (DOS No. 2,610,718) in 54.0 ml of absolute dimethylformamide is combined with 3.03 g of imidazole and 6.63 g of tert-butyldimethylsilyl chloride, and the mixture is stirred for 3 hours at room temperature. The solution is subsequently precipitated into 500 ml of ice water, the precipitate is suctioned off, and the residue is dissolved in methylene chloride. The organic solution is dried over magnesium sulfate and concentrated. The crude product is recrystallized from hexane, thus obtaining 15.30 g of the title compound, mp 75.8° C.

reactant | (1S,5R,6S,7R)-6-hydroxymethyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 11.052 g | OC[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C15H16O5
reactant | imidazole | 3.03 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 6.63 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 54.0 ml | CN(C=O)C | C3H7NO
product | (1S,5R,6S,7R)-6-tert-Butyldimethylsilyloxymethyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 15.30 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C21H30O5Si
